US04308266
1,2,3,4-Tetrahydro-6-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]-naphthalene
10 g of 1,2,3,4-tetrahydro-6-methoxy-2-[4-(2-methylphenyl)-1-piperazinyl]-naphthalene are suspended in 200 ml of 47% aqueous hydrogen bromide and refluxed under a nitrogen atmosphere for 3 hours. The hydrogen bromide is finally evaporated off and the product which is in the form of the hydrobromide is converted to the free base form, with IN aqueous sodium bicarbonate solution/methylene chloride, and recrystallised from acetonitrile. The title compound is obtained as a compact residue. M.P. 177°-179°. Hydrochloride salt form: M.P. 304°-306°.

reactant | 1,2,3,4-tetrahydro-6-methoxy-2-[4-(2-methylphenyl)-1-piperazinyl]-naphthalene | 10 g | COC=1C=C2CCC(CC2=CC1)N1CCN(CC1)C1=C(C=CC=C1)C | C22H28N2O
solvent | hydrogen bromide | 200 ml | Br | BrH
product | 1,2,3,4-Tetrahydro-6-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]-naphthalene | OC=1C=C2CCC(CC2=CC1)N1CCN(CC1)C1=C(C=CC=C1)C | C21H26N2O
